US08067445B2
Step 1: {2′-[3-(2-Bromo-phenyl)-1-ethyl-ureidomethyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester
Prepared according to the procedure described in Example 41, Step 5, using the following starting materials: (2′-ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester and 2-bromophenyl isocyanate.

reactant | (2′-ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O | C20H22F3NO3
reactant | 2-bromophenyl isocyanate | BrC1=C(C=CC=C1)N=C=O | C7H4BrNO
product | {2′-[3-(2-Bromo-phenyl)-1-ethyl-ureidomethyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(C(=O)NC1=C(C=CC=C1)Br)CC)=O | C27H26BrF3N2O4
